US09353107B2
Step-v: 5-bromo-6-cyclopropyl-3-iodopyridin-2-amine
A solution of 5-bromo-6-cyclopropylpyridin-2-amine (2.1 g, 9.81 mmol), trifluoroaceticacid (170 mg, 1.47 mmol), N-iodosuccinimide (2.2 g, 9.81 mmol) stirred at room temperature for 30 minutes. Reaction mass was quenched with water, basified with ammonium hydroxide solution. Solid separated was filtered and dried to get 3.3 g (100% yield) of titled compound. 1H NMR (CDCl3, 300 MHz): δ 7.85 (s, 1H), 4.80-4.65 (bs, 2H), 2.39-2.25 (m, 1H), 1.0-0.90 (m, 4H). MS: m/z=338.9 (M+1).

reactant | 5-bromo-6-cyclopropylpyridin-2-amine | 9.81 mmol, 2.1 g | BrC=1C=CC(=NC1C1CC1)N | C8H9BrN2
reactant | trifluoroaceticacid | 1.47 mmol, 170 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-iodosuccinimide | 9.81 mmol, 2.2 g | IN1C(CCC1=O)=O | C4H4INO2
product | 5-bromo-6-cyclopropyl-3-iodopyridin-2-amine | 3.3 g, 100% yield | BrC=1C=C(C(=NC1C1CC1)N)I | C8H8BrIN2
